US06288096B1
5-([4-[2-(4-(2-Propanesulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1.2 g (2.7 mmole) 5-(4-[2-(4-(2-propanesulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was dissolved in 250 ml ethyl acetate by heating. 6 ml acetic acid and 1 g Pd/C (5%) were added and the hydrogenation was started while the solution was warm. After 12 hours at room temperature, more of the catalyst was added. After 60 hours the reaction mixture was filtered through celite and the solvent was evaporated in vacuo. The hydrogenation was restarted with more Pd/C (10%) and ethyl acetate. After 6 hours the reaction mixture was filtered through celite and the solvent was evaporated in vacuo. The crude product was purified by chromatography on silica gel using dichloromethane:methanol (95:5) as eluent to give 0.557 g (yield 45.9%) of the desired product.

reactant | 5-(4-[2-(4-(2-propanesulfonyloxy)phenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 2.7 mmole, 1.2 g | CC(C)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C21H21NO6S2
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 5-([4-[2-(4-(2-Propanesulfonyloxy)phenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.557 g, yield 45.9% | CC(C)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C21H23NO6S2
